US08609692B2
1-(prop-2-ynyloxy)-2-(trifluoromethoxy)benzene
To a solution of 2-trifluoromethoxyphenol (10.0 g, 56.1 mmol) in acetonitrile (120 mL) was added potassium carbonate (9.31 g, 67.4 mmol) and propargyl bromide (80% in toluene, 10.0 g, 7.70 mL, 67.4 mmol). The reaction was stirred at ambient temperature for seven days, then diluted with water (150 mL) and extracted with diethyl ether (300 mL). The organic layer was separated and concentrated to obtain the title compound (13.05 g) which was used without further purification in the next step. 1H NMR (300 MHz, CDCl3) δ 7.30-7.23 (m, 2H), 7.19-7.13 (m, 1H), 7.04-6.95 (m, 1H), 4.77 (d, J=2.4 Hz, 2H), 2.53 (t, J=2.4 Hz, 1H).

reactant | 2-trifluoromethoxyphenol | 56.1 mmol, 10.0 g | FC(OC1=C(C=CC=C1)O)(F)F | C7H5F3O2
reactant | potassium carbonate | 67.4 mmol, 9.31 g | C([O-])([O-])=O.[K+].[K+]
reactant | propargyl bromide | 67.4 mmol, 7.70 mL, 10.0 g | C(C#C)Br | C3H3Br
solvent | acetonitrile | 120 mL | C(C)#N | C2H3N
solvent | water | 150 mL | O | H2O
product | 1-(prop-2-ynyloxy)-2-(trifluoromethoxy)benzene | 13.05 g | C(C#C)OC1=C(C=CC=C1)OC(F)(F)F | C10H7F3O2
